US06693214B2
A mixture of 2-methanesulfonyloxy anisole (240 g) and 3-methylcrotonic acid (39 g) was stirred, and to the thus mixed solution, aluminum chloride (104 g) was added, and the mixture was stirred for 5 hours at 70° C., and then further stirred for 2 hours at 100° C. The obtained solution was cooled to about room temperature, and then 6N hydrochloric acid (HCl) solution (390 ml) was added thereto, and the mixture was stirred for 3 hours vigorously. The solution obtained was extracted with the use of methylene chloride (300 ml), and the organic layer separated was further extracted with the use of two normal (2N) sodium hydroxide (NaOH) aqueous solution (400 ml). Subsequently, 6N hydrochloric acid (HCl) solution was further added to the aqueous layer separated, to acidify, the solution. The obtained aqueous solution was extracted with methylene chloride (300 ml) twice, and thereafter, thus obtained organic layer was concentrated under reduced pressure to obtain a residue. Subsequently, to the residue thus obtained, 6N NaOH aqueous solution (300 ml) was added, and the mixture was stirred for 4 hours at 100° C. for mixing. The obtained reaction solution was cooled to a room temperature, and then 6N HCl solution was added thereto, to acidify the solution. The obtained solution was extracted with ethyl acetate. From the organic solution separated, the solvent therein was removed by distillation under reduced pressure, and thereafter, the obtained crude crystals were recrystallized with toluene to obtain 3-(3-hydroxy-4-methoxyphenyl)-3-methylbutyric acid as objective (33.2 g; yield: 37.9% to the 3-methylcrotonic acid).

reactant | 2-methanesulfonyloxy anisole | 240 g | CS(=O)(=O)OC1=C(C=CC=C1)OC | C8H10O4S
reactant | 3-methylcrotonic acid | 39 g | CC(=CC(=O)O)C | C5H8O2
reactant | aluminum chloride | 104 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 6N, 390 ml | Cl | ClH
reactant | HCl | 6N | Cl | ClH
solvent | NaOH | 6N, 300 ml | [OH-].[Na+]
product | 3-(3-hydroxy-4-methoxyphenyl)-3-methylbutyric acid | yield: 37.9% | OC=1C=C(C=CC1OC)C(CC(=O)O)(C)C | C12H16O4
